Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
swelling of both feet for 2 days
 
Major Surgical or Invasive Procedure:
Left ankle joint aspiration

 
History of Present Illness:
Mr. ___ is a ___ year old gentleman with a past medical 
history significant for IVDU (last use 6 months ago) and 
hepatitis C who presents with 2 days of ankle swelling and pain. 
He reports significant ankle swelling and pain that started two 
days ago. He also endorses a productive cough of white sputum 
over the past 3 days. He does note he has gets a similar cough 
about once per year that he attributes to smoking. He has never 
had symptoms like this in the past. He presents today as his mom 
is in the ICU here with necrotic bowel and his pain/edmea has 
been worsening.  
He denies viral or URI symptoms. He denies trauma to his ankles 
or legs. He denies recent airplane rides, surgery, or 
immobilization. He denies sick contacts or recent travel. He is 
currently sexually active, only with women, with usually 1 
partner (his children's mother, no condoms) but does note 
several other sexual partners over the last few months with whom 
he wears condoms. He denies prior history of STIs.  
 
In the ED initial vitals were: 99.2 83 ___ 95% RA  
- Labs were significant for WBC 7.7 (77% PMNs) and H/H 12.___. 
Chem-7, LFTs, and ESR/CRP were normal, and BNP was mildly 
elevated at 534. UA was notable for 30 protein.  
- CXR showed no acute cardiopulmonary process.  
- Patient was given Ibuprofen 600mg.  
Vitals prior to transfer were: 98.9 81 101/62 16 94% RA  
On the floor, patient is comfortable and has no acute concerns. 
 
Past Medical History:
Hepatitis C
IVDU
Tobacco Abuse
GERD
 
Social History:
___
Family History:
Father - ___ Cancer  
Mother - COPD, currently admitted for ischemic bowel  

 
Physical Exam:
ON ADMISSION:

Vitals - T: 98.4 BP: 101/63 HR: 74 RR: 18 02 sat: 98% RA  
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition  
NECK: Nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: Bilateral 1+/trace non-pitting pedal and ankle 
edema. Tenderness to palpation over the bilateral medial ankles. 
No calf tenderness. Negative ___ sign. Ankle tenderness with 
active and passive movement but normal range of motion. Moving 
all extremities well, no cyanosis or clubbing. PULSES: 2+ DP 
pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes  

ON DISCHARGE:
Vitals T: 98.1 BP: 107/57 HR: 68 RR: 18 02 sat: 95% RA  
GENERAL: well appearing man, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM, good 
dentition, erythema of posterior pharynx, no exudates  
NECK: Nontender supple neck, no LAD, no JVD  
CARDIAC: regular rate and rhythm, S1/S2, no murmurs, gallops, or 
rubs  
LUNG: minimal crackles at bases, few inspiratory wheezes, 
occassional crackles, breathing comfortably without use of 
accessory muscles  
ABDOMEN: Nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
GU: no inguinal lymph nodes palpable 
EXTREMITIES: bilateral 1+ nonpitting edema to above ankles. 
Tenderness to palpation on bilateral arches of feet and 
bilateral medial and lateral ankles. No calf tenderness. Ankle 
tenderness with active and passive motion, no limitation to 
joint range. No cyanosis, no clubing. 2+ dorsal pedal pulses. 
NEURO: CN II-XII intact, ___ motor strength  
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
Notable for:

___ 02:40PM BLOOD WBC-7.7 RBC-4.13* Hgb-12.5* Hct-39.0* 
MCV-95 MCH-30.3 MCHC-32.0 RDW-13.0 Plt ___
___ 02:40PM BLOOD Neuts-76.9* Lymphs-16.2* Monos-5.9 
Eos-0.9 Baso-0.2
___ 02:40PM BLOOD Glucose-129* UreaN-9 Creat-1.0 Na-139 
K-4.6 Cl-102 HCO3-29 AnGap-13
___ 02:40PM BLOOD ALT-31 AST-25 AlkPhos-84 TotBili-0.2
___ 02:40PM BLOOD Lipase-19
___ 02:40PM BLOOD proBNP-534*
___ 07:30AM BLOOD Calcium-8.8 Phos-3.3 Mg-1.8
___ 02:40PM BLOOD CRP-6.2*
___ 02:40PM BLOOD ESR-10
___ 08:00AM BLOOD C3-124 C4-29

PENDING LABS:

___ 07:54AM BLOOD Cryoglb-PND
___ 07:30AM BLOOD HBsAg-PND HBsAb-PND HBcAb-PND
___ 07:30AM BLOOD ANCA-PND
___ 07:30AM BLOOD HIV Ab-PND
___ 07:30AM BLOOD RNP ANTIBODY-PND
___ 07:30AM BLOOD CYCLIC CITRULLINATED PEPTIDE (CCP) 
ANTIBODY, IGG-PND
 
Brief Hospital Course:
Mr. ___ is a ___ year old man with past medical history of 
hepatitis C, past IVDU, gastritis, who presented with 2 days of 
spontaneous bilateral feet swelling and pain in the arch of his 
feet and medial ankles. Patient woke up with marked swelling of 
his feet 2 days prior to admission (patient has picture). New 
onset cough with productive white sputum for 5 days prior to 
admission. At time of admission, minimal swelling in bilateral 
present with persistent tenderness to palpation and while 
ambulating. Normal strength and range of motion. No concern for 
joint infection. Chest XRAY and blood tests (including LFTs) 
were all within normal ranges except for a slightly elevated 
BNP. Bilateral Foot XRAY showed no signs of fracture or joint 
process. There was no clear etiology for newfound swelling. 
Rheumatology was consulted since the tenderness was localized to 
arch of feet and ankle, and appeared to of musculoskeletal 
origin. Joint aspiration was attempted, but no fluid was 
obtained. Per rheumatology diagnosis was Reactive arthritis vs 
CPPD. Many labs were sent out, but results were not completed 
prior to discharge. Swelling improved and he will be discharged 
on Ibuprofen 800mg TID for 10 days with plans to follow up as an 
outpatient. 

Patient is not on any medications nor is he being followed for 
Hep C. 

TRANSITIONAL ISSUES:
- Ibuprofen 800mg TID for 10 days to treat swelling and pain.
- Started on omeprazole 40mg daily 
- Follow up pending labs: HIV, ANCA, Hep B, Cryo, RNP, CCP, HCV 
viral load
- Given 5 pills of 5mg oxycodone for pain. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*15 Capsule Refills:*0
2. Ibuprofen 800 mg PO Q8H 
RX *ibuprofen 800 mg 1 tablet(s) by mouth three times a day Disp 
#*30 Tablet Refills:*0
3. Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0
4. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain Duration: 
2 Days 
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*8 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
LOWER EXTREMITY SWELLING

Secondary:
Hepatitis C

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

It was a pleasure taking care of you while you were at ___. 
You came to the hospital for 2 days of sudden swelling in your 
feet and pain in your arches and ankles. The swelling improved 
from prior to hospitalization, but you continued to have pain. 
You were given ibuprofen to help with the swelling and pain. All 
studies about your heart, lungs, liver, and kidney were normal. 
You were seen by rheumatology, specialists in joints and 
tendons. You have follow up appointments with rheumatology and 
primary care to follow up on lab results that are still not 
back. 

Sincerely, 

Your medical team at ___
 
Followup Instructions:
___